US08076360B2
To a solution of 100 mg (0.46 mmol) of 7-cyanomethyl-1H-indole-2-carboxylic acid ethyl ester (the preparation of which is described in Chem. Pharm. Bull. 1996, 44, 55) in THF/EtOH/H2O (5 ml) at RT was added 50 mg of LiOH.H2O. The reaction mixture was stirred at 45° C. for one hour and then acidified with aqueous HCl 1M. The product was extracted with EtOAc and concentrated under vacuo to afford 80 mg (85%) of 7-Cyanomethyl-1H-indole-2-carboxylic acid as a white solid. ES-MS m/e (%): 199.6 (M−H+).

reactant | 7-cyanomethyl-1H-indole-2-carboxylic acid ethyl ester | 0.46 mmol, 100 mg | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)CC#N | C13H12N2O2
reactant | LiOH.H2O | 50 mg | O[Li].O
reactant | HCl | 1M | Cl | ClH
solvent | THF EtOH H2O | 5 ml | C1CCOC1.CCO.O
product | 7-Cyanomethyl-1H-indole-2-carboxylic acid | 80 mg, 85% | C(#N)CC=1C=CC=C2C=C(NC12)C(=O)O | C11H8N2O2
